US05874430
To a stirred, cooled (0° C.) solution of 31.2 g (123 mmol) of 2'-amino-5'-chloro-3'-methoxy-2,2,2-trifluoroacetophenone in 150 mL of CH2Cl2 was added 550 mL (550 mmol) of 1M BBr3 in CH2Cl2 over 20 min. The dark solution was stirred 17 h at ambient temperature, re-cooled to 0° C., and fitted with a pressure-equalizing dropping addition funnel and a Claisen adapter connected by rubber tubing to a large water scrubber. The reaction was carefully quenched by dropwise addition of aqueous Na2CO3 until a pH of 7-8 was reached. The phases were separated, and the aqueous phase was extracted with 1 liter of 1:1 ether-hexanes. The combined organic phases were washed with water then brine, dried (MgSO4), and concentrated under reduced pressure to afford 30.1 g (100%) of 2'-amino-5'-chloro-3'-hydroxy-2,2,2-trifluoroacetophenone as a chalky brown solid, mp 120°-122° C. 1H NMR (300 MHz, CDCl3) δ7.33-7.36(m, 1H); 6.88(d, 1H, J=1.8 Hz); 6.75(br. s, 2H); 5.78(br. s, 1H). High resolution mass spec: calculated for C8H6NO2ClF3 (M+H)+ : 240.0039, found: 240.0029.

reactant | 2'-amino-5'-chloro-3'-methoxy-2,2,2-trifluoroacetophenone | 123 mmol, 31.2 g | NC1=C(C=C(C=C1OC)Cl)C(C(F)(F)F)=O | C9H7ClF3NO2
reactant | BBr3 | 550 mmol, 1M, 550 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 2'-amino-5'-chloro-3'-hydroxy-2,2,2-trifluoroacetophenone | 30.1 g, 100% | NC1=C(C=C(C=C1O)Cl)C(C(F)(F)F)=O | C8H5ClF3NO2
